US04954518
3-Formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with methylmagnesium iodide to obtain 3-(1-hydroxyethyl)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-Formyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | C(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO6S
reactant | methylmagnesium iodide | C[Mg]I
product | 3-(1-hydroxyethyl)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | OC(C)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C18H17NO6S
